US08334292B1
Step 4: Preparation of 4-((azetidin-3-yl)methoxy)-N-(cis-4-methylcyclohexyl)-5-(4-morpholinophenyl)pyrimidin-2-amine
Using the procedure of Example 1 Step 4, tert-butyl 3-((2-(cis-4-methylcyclohexylamino)-5-(4-morpholinophenyl)pyrimidin-4-yloxy)methyl)azetidine-1-carboxylate was deprotected by TFA to provide the title compound at quantitative yield. 1H NMR (CDCl3, 400 MHz) 8.02 (s, 1H), 7.32 (d, 2H), 6.87 (d, 2H), 5.24 (sb, 1H), 4.42 (d, 2H), 4.05 (m, 1H), 3.82-3.80 (m, 4H), 3.65 (m, 2H), 3.50 (m, 2H), 3.14-3.11 (m, 4H), 3.05 (bs 1H), 3.03-2.97 (m, 1H), 1.79-1.48 (m, 6H), 1.23-1.18 (m, 3H), 0.88 (d, 3H); MS (ESI) m/z: Calc: 437.3 (M+). Found. 438.3 (M+1).

reactant | tert-butyl 3-((2-(cis-4-methylcyclohexylamino)-5-(4-morpholinophenyl)pyrimidin-4-yloxy)methyl)azetidine-1-carboxylate | C[C@H]1CC[C@H](CC1)NC1=NC=C(C(=N1)OCC1CN(C1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)N1CCOCC1 | C30H43N5O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-((azetidin-3-yl)methoxy)-N-(cis-4-methylcyclohexyl)-5-(4-morpholinophenyl)pyrimidin-2-amine | quantitative yield | N1CC(C1)COC1=NC(=NC=C1C1=CC=C(C=C1)N1CCOCC1)N[C@@H]1CC[C@@H](CC1)C | C25H35N5O2
